US03936465
A sample of 1-methyl-α-(2-methylphenyl)-3-pyrrolidineethanol (23 g, 0.105 moles) is subjected to Birch reduction in 500 ml liquid ammonia with 7 g (1 mole) of lithium to give a quantitative yield of 3-(3,6-dihydro-2-methylphenethyl)-N-methylpyrrolidine.

reactant | 1-methyl-α-(2-methylphenyl)-3-pyrrolidineethanol | 0.105 moles, 23 g | CN1CC(CC1)CC(O)C1=C(C=CC=C1)C | C14H21NO
reactant | ammonia | N | H3N
reactant | lithium | 1 mole, 7 g | [Li] | Li
product | 3-(3,6-dihydro-2-methylphenethyl)-N-methylpyrrolidine | quantitative yield | CC1=C(CCC2CN(CC2)C)CC=CC1 | C14H23N
